US05474998
1-(4-Chlorophenyl)-N-(6-chloro-3-pyridinyl)-5-(4-fluorophenyl)-4,5-dihydro-1H-pyrazole-3-carboxamide
A solution of 0.9 g of 1-(4-chlorophenyl)-5-(4-fluorophenyl)-4,5-dihydro-1H-pyrazole-3-carbonyl chloride in 10 mL of THF was added to a solution of 0.4 g of 5-amino-2-chloropyridine, 2.0 mL Of triethylamine and 10 mL of THF. The resulting suspension was stirred at room temperature for 2 hours. The solvent was evaporated and the residue was triturated with 10 mL of methanol to afford 0.66 g of the title compound, mp 191°-193° C.

reactant | 1-(4-chlorophenyl)-5-(4-fluorophenyl)-4,5-dihydro-1H-pyrazole-3-carbonyl chloride | 0.9 g | ClC1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)F)C(=O)Cl | C16H11Cl2FN2O
reactant | 5-amino-2-chloropyridine | 0.4 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Chlorophenyl)-N-(6-chloro-3-pyridinyl)-5-(4-fluorophenyl)-4,5-dihydro-1H-pyrazole-3-carboxamide | 0.66 g | ClC1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)F)C(=O)NC=1C=NC(=CC1)Cl | C21H15Cl2FN4O
